US08703768B2
Step 2: 5-Bromo-2-(1-hydroxy-1-methyl-ethyl)-pyrimidine-4-carboxylic acid (1-methyl-5-methylcarbamoyl-1H-pyrazol-4-yl)-amide
The product was obtained starting from 5-bromo-2-(2-hydroxypropan-2-yl)pyrimidine-4-carboxylic acid (150 mg, 0.575 mmol) and 4-amino-2-methyl-2H-pyrazole-3-carboxylic acid methylamide (106 mg, 0.69 mmol) according to the method described in example 64, step 6 after purification by silica gel chromatography using a heptane/ethyl acetate gradient as light brown waxy solid (31 mg, 13%).

reactant | 5-bromo-2-(2-hydroxypropan-2-yl)pyrimidine-4-carboxylic acid | 0.575 mmol, 150 mg | BrC=1C(=NC(=NC1)C(C)(C)O)C(=O)O | C8H9BrN2O3
reactant | 4-amino-2-methyl-2H-pyrazole-3-carboxylic acid methylamide | 0.69 mmol, 106 mg | CNC(=O)C=1N(N=CC1N)C | C6H10N4O
product | 5-Bromo-2-(1-hydroxy-1-methyl-ethyl)-pyrimidine-4-carboxylic acid (1-methyl-5-methylcarbamoyl-1H-pyrazol-4-yl)-amide | CN1N=CC(=C1C(NC)=O)NC(=O)C1=NC(=NC=C1Br)C(C)(C)O | C14H17BrN6O3
